US07365174B2
In an amount of 3.0 g of (S)-5-amino-2-hydroxypentanoic acid (YAKUGAKU ZASSHI, Vol 87, 1184-1188 (1967)) was dissolved in 15 ml of a mixed solvent of dioxane/water (1:1), successively added with 6.28 ml of triethylamine, and 5.69 ml of di-tert-butyl dicarbonate, and stirred at room temperature for 4 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate, and washed with ethyl acetate, and then the aqueous layer was adjusted to pH 3 with 1 N hydrochloric acid. The aqueous layer was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. Then, the filtrate was concentrated under reduced pressure to obtain 5.58 g of (S)-5-tert-butoxycarbonylamino -2-hydroxypentanoic acid. Physicochemical Properties of this Compound

reactant | triethylamine | 6.28 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.69 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | (S)-5-amino-2-hydroxypentanoic acid | 3.0 g | NCCC[C@@H](C(=O)O)O | C5H11NO3
solvent | dioxane water | O1CCOCC1.O
product | (S)-5-tert-butoxycarbonylamino -2-hydroxypentanoic acid | 5.58 g | C(C)(C)(C)OC(=O)NCCC[C@@H](C(=O)O)O | C10H19NO5
